US04861787
2-propargylthio-5-thien-2-yl-1,3,4-thiadiazole
6 g of 2-mercapto-5-thienyl-1,3,4-thiadiazole are placed in 40 ml of dioxan and stirred for 15 minutes with 3.36 g of potassium tert.-butoxide. Subsequently, 5.9 g of propargyl bromide are added dropwise at 30° C. and the reaction mixture is stirred overnight at room temperature. The salts are filtered off, the filtrate is concentrated by evaporation, the residue is taken up in methylene chloride and the solution is washed with water and then with 1N sodium hydroxide solution. The solvent is removed in vacuo and the residue obtained is 6.1 g of crude title compound which, recrystallised from tert.-butyl methyl ether, yields the title compound having a melting point of 71°-73° C.

reactant | 2-mercapto-5-thienyl-1,3,4-thiadiazole | 6 g | SC=1SC(=NN1)C=1SC=CC1 | C6H4N2S3
reactant | potassium tert.-butoxide | 3.36 g | CC(C)([O-])C.[K+]
reactant | propargyl bromide | 5.9 g | C(C#C)Br | C3H3Br
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
product | 2-propargylthio-5-thien-2-yl-1,3,4-thiadiazole | C(C#C)SC=1SC(=NN1)C=1SC=CC1 | C9H6N2S3
